Code Model Test: d_source with string parameter over subckt boundary 

.param myfile3="./test/d_source-stimulus3.txt"

a_source [a1 a2 a3 a4 a5 a6 a7 a8 a9 aa ab]  d_source1
.model d_source1 d_source (input_file="d_source-stimulus.txt")

.subckt subckt2 b1 b2 b3 b4 b5 b6 b7 b8 b9 ba infile = "d_source-stimulus2.txt"
a_source2 [b1 b2 b3 b4 b5 b6 b7 b8 b9 ba]  d_source2
.model d_source2 d_source (input_file="{infile}")
.ends

X2 b1 b2 b3 b4 b5 b6 b7 b8 b9 ba subckt2

.subckt subckt3 c1 c2 c3 infile = {myfile3}
a_source3 [c1 c2 c3]  d_source3
.model d_source3 d_source (input_file = "{myfile3}"
.ends

X3 c1 c2 c3 subckt3

.control
set noaskquit
set noacct
tran 100ps 30ns
eprint c1 c2 c3 > $inputdir/d_s.out
eprint a1 a2 a3 a4 a5 a6 a7 a8 a9 aa ab >> $inputdir/d_s.out
eprint b1 b2 b3 b4 b5 b6 b7 b8 b9 ba >> $inputdir/d_s.out
.endc

.end
